US06172057B2
2-[4-(2-Azepan-1-yl-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-pentanoic acid ethyl ester was prepared according to the general method as outlined in example 12. Starting from 2-(4-methoxy-benzenesulfonyl)-pentanoic acid ethyl ester (3.5 g, 11.7 mmol) and 1-[2-(4-chloromethyl-phenoxy)-ethyl]-azepane (3.9 g, 12.8 mmol). Yield 2.58 g (42%); brown oil; MS: 532.4 (M+H)+.

reactant | 2-(4-methoxy-benzenesulfonyl)-pentanoic acid ethyl ester | 11.7 mmol, 3.5 g | C(C)OC(C(CCC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C14H20O5S
reactant | 1-[2-(4-chloromethyl-phenoxy)-ethyl]-azepane | 12.8 mmol, 3.9 g | ClCC1=CC=C(OCCN2CCCCCC2)C=C1 | C15H22ClNO
product | 2-[4-(2-Azepan-1-yl-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-pentanoic acid ethyl ester | C(C)OC(C(CCC)(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OCCN1CCCCCC1)=O | C29H41NO6S
